US04472305
Condensation of BocTrpOPFP (1.41 g.) and HLeu-Met-NH2 hydrochloride salt (Example 1, 0.89 g.) by the activated ester method gave BocTrp-Leu-MetNH2 in 81% yield. De-t-butoxycarbonylation of BocTrp-Leu-MetNH2 (1.06 g.) using trifluoroacetic acid containing 10% water gave Htrp-Leu-MetNH2 in 81% yield.

reactant | BocTrp-Leu-MetNH2 | 1.06 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C27H41N5O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Htrp Leu-MetNH2 | 81% yield | C1=CC=C2C(=C1)C(=CN2)CC(C(=O)O)N.N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | InChI=1S/C11H23N3O2S.C11H12N2O2/c1-7(2)6-8(12)11(16)14-9(10(13)15)4-5-17-3;12-9(11(14)15)5-7-6-13-10-4-2-1-3-8(7)10/h7-9H,4-6,12H2,1-3H3,(H2,13,15)(H,14,16);1-4,6,9,13H,5,12H2,(H,14,15)/t8-,9-;/m0./s1
